US04567172
11β-Hydroxy-17α-methoxyacetoxy-6α-methyl-21-methylthioacetoxy-1,4-pregnadiene-3,20-dione
Using 150 mg of 11β,21-dihydroxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione obtained according to the method as described in Example 32, the reaction with methylthioacetic anhydride was carried out in the same manner as described in Example 38 and the reaction mixture was treated in the same manner as described in Example 7 whereby 123 mg (yield: 68.3%) of the title compound was obtained as a colorless amorphous solid. The structure of this compound was confirmed by the following analytical results:

reactant | 11β,21-dihydroxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 150 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C25H34O7
reactant | methylthioacetic anhydride | CCC(=S)OC(CC)=S | C6H10OS2
product | 11β-Hydroxy-17α-methoxyacetoxy-6α-methyl-21-methylthioacetoxy-1,4-pregnadiene-3,20-dione | 123 mg, yield: 68.3% | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(CC)=S)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C28H38O7S
